US05663440
In a 10-liters three-necked flask equipped with a stirring device, a thermometer and a nitrogen substituting device, 629 g (3.88 mole) of iron chloride and 1.7 liters of 1,2-dichloroethane were mixed, and 595 g (3.21 mole) of paranitrobenzoyl chloride was introduced with ice cooling to be dissolved. After warming the reaction solution to 80° C., a solution of 391 g (1.34 mole) of 1,1-diphenyl-4-butylcyclohexane in 630 milliliters of 1,2-dichloroethane was added dropwise for 3 hours and 30 minutes. After the dropwise addition was ended, the solution was stirred gently at reflux for 6 hours. After the end of the reaction was confirmed by a liquid chromatography, the reaction solution was poured on 2 liters of ice, and 1 liter of a 4N-HCl aqueous solution was added and then extracted with 1.5 liters of chloroform. The solution was washed with a 6N-HCl aqueous solution, an aqueous solution of sodium hydrogencarbonate, brine and water, and dried with magnesium sulfate. After removing off chloroform by a rotary evaporator, treating with a silica gel column and purifying by recrystallization from ethyl acetate, 435 g of 1,1-bis(4-(4-nitrobenzoyl)phenyl)-4-butylcyclohexane was obtained as crystals.

reactant | paranitrobenzoyl chloride | 3.21 mole, 595 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 1,1-diphenyl-4-butylcyclohexane | 1.34 mole, 391 g | C1(=CC=CC=C1)C1(CCC(CC1)CCCC)C1=CC=CC=C1 | C22H28
reactant | HCl | Cl | ClH
solvent | 1,2-dichloroethane | 630 milliliters | ClCCCl | C2H4Cl2
catalyst | iron chloride | 3.88 mole, 629 g | [Fe](Cl)Cl
solvent | 1,2-dichloroethane | 1.7 liters | ClCCCl | C2H4Cl2
product | 1,1-bis(4-(4-nitrobenzoyl)phenyl)-4-butylcyclohexane | 435 g | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(C=C2)C2(CCC(CC2)CCCC)C2=CC=C(C=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C36H34N2O6
